US04552977
To a stirred solution of 127.5 parts of 4-(2',4'-dichlorophenoxy)-phenol and 69.2 parts of 2-chloropropionic acid methyl ester in 650 parts of xylene, 100 parts of 50% sodium hydroxide solution are added dropwise at about 110° C. and 500 mbar while simultaneously distilling off the azeotropic mixture of water and methanol. The addition being complete, stirring is continued for 15 minutes at 110° C. Work-up is as described in Example 1. 163.3 Parts of 2-[4'-(2",4"-dichlorophenoxy)-phenoxy]propionic acid are obtained. The content of pure final product is 99.8%, corresponding to 99.6% of theory. The residual amount of 4-(2',4'-dichlorphenoxy)-phenol is 0.15%.

reactant | 4-(2',4'-dichlorophenoxy)-phenol | ClC1=C(OC2=CC=C(C=C2)O)C=CC(=C1)Cl | C12H8Cl2O2
reactant | 2-chloropropionic acid methyl ester | COC(C(C)Cl)=O | C4H7ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[4'-(2",4"-dichlorophenoxy)-phenoxy]propionic acid | ClC1=C(OC2=CC=C(OC(C(=O)O)C)C=C2)C=CC(=C1)Cl | C15H12Cl2O4
